US06762196B2
A suspension of 0.4 g of N-(tert-butyl)-N′-[2-hydroxy-1-(3-methoxy-pyridin-4-yl-methyl)ethyl]-thiourea in 4 mL of aqueous solution of 6N hydrochloric acid is heated at a temperature of about 100° C. for 18 hours. The reaction medium is then concentrated under reduced pressure (2 kPa) at a temperature of about 40° C. The residue obtained is taken up by 25 mL of distilled water and the mixture is washed with 2 times 20 mL of dichloromethane. The aqueous phase is evaporated under reduced pressure (2 kPa) at a temperature of about 40° C. The residue is taken up with 2 times 15 mL of ethanol and concentrated according to the conditions described above, then dried in an oven under reduced pressure (10 kPa) at a temperature of about 40° C. for 4 hours. About 0.31 g of racemic 4-(2-amino-4,5-dihydro-thiazol-4-ylmethyl)-1H-pyridin-2-one hydrochloride, are obtained in the form of a pale yellow solid melting at 124° C. This product is purified by chromatography on a column of CHIRALCEL OD 20μ in an heptane-ethanol-triethylamine mixture (80/20/0.1 by volume). The fractions containing the expected product are collected and concentrated under reduced pressure (1 kPa) at a temperature of about 40° C. and then the residue is dried in an oven under reduced pressure (10 kPa) at a temperature of about 40° C. About 0.0131 g of (+)-4-(2-Hydroxy-pyridin-4-ylmethyl)-4,5-dihydro-thiazol-2-ylamine, (αD2°=+12.1+/−0.7 in the 0.5% DMSO) are obtained. [1H NMR spectrum (300 MHz, (CD3)2SO d6, δ in ppm): 2.73 (dd, J=13.5 and 7 Hz, 1H); 2.80 (dd, J=13.5 and 7 Hz, 1H); 3.27 (dd, J=11.5 and 5.5 Hz, 1H); 3.62 (dd, J=11.5 and 7.5 Hz, 1H); 4.53 (mt, 1H); 6.13 (dd, J=6.5 and 1.5 Hz, 1H); 6.24 (s large, 1H); 7.34 (d, J=6.5Hz, 1H); from 8.90 to 9.40 (mf very broad, 2H); from 9.60 to 10.40 (mf very broad, 1H)].

reactant | N-(tert-butyl)-N′-[2-hydroxy-1-(3-methoxy-pyridin-4-yl-methyl)ethyl]-thiourea | 0.4 g | C(C)(C)(C)NC(=S)NC(CO)CC1=C(C=NC=C1)OC | C14H23N3O2S
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | water | 25 mL | O | H2O
product | racemic 4-(2-amino-4,5-dihydro-thiazol-4-ylmethyl)-1H-pyridin-2-one hydrochloride | 0.31 g | Cl.NC=1SCC(N1)CC1=CC(NC=C1)=O | InChI=1S/C9H11N3OS.ClH/c10-9-12-7(5-14-9)3-6-1-2-11-8(13)4-6;/h1-2,4,7H,3,5H2,(H2,10,12)(H,11,13);1H
